US08236801B2
A.6.1 Synthesis of 2-Methyl-benzooxazole-4-carboxylic acid ethyl ester
A mixture of 2-amino-3-hydroxy-benzoic acid ethyl ester (5.52 mmol; J. Reisch, G. M. K. B. Gunaherath Monatshefte für Chemie, 1988, 119, 1169-1178), acetyl chloride (6.07 mmol), NEt3 (6.07 mmo) and pyridinium p-toluenesulfonate (1.47 mmol) in xylene (60 mL) is heated at reflux for 16 h, cooled to rt, diluted with EtOAc and washed with water. The organic layer is dried over MgSO4 and concentrated in vacuo to give a crude product which is purified by flash chromatography (gradient: heptane to heptane/EtOAc 6/4). LC-MS: tR=0.81 min; [M+H]+=206.0.

reactant | 2-amino-3-hydroxy-benzoic acid ethyl ester | 5.52 mmol | C(C)OC(C1=C(C(=CC=C1)O)N)=O | C9H11NO3
reactant | acetyl chloride | 6.07 mmol | C(C)(=O)Cl | C2H3ClO
reactant | NEt3 | CCN(CC)CC | C6H15N
reactant | pyridinium p-toluenesulfonate | 1.47 mmol | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 60 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Methyl-benzooxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC=C2C1N=C(O2)C | C11H11NO3
